US06777576B2
According to JP-A-11-193271, ethyl benzoylformate and cyclohexylmagnesium bromide are condensed to give ethyl 2-cyclohexyl-2-hydroxy-2-phenylacetate, which is hydrolyzed to give 2-cyclohexyl-2-hydroxy-2-phenylacetic acid. In this condensation reaction, diethyl ether having a boiling point of 35° C. is used in an amount of about 12-fold volume relative to ethyl benzoylformate, manipulation of dangerous reaction using the boiling point of diethyl ether is required and the yield is as low as 53.3%. In an attempt to improve this method into an industrially safe one, the present inventors used tetrahydrofuran instead of diethyl ether as a solvent and reproduced the reaction. As a result, there occurred reduction due to Grignard reagent to produce ethyl mandelate as a by-product, as well as addition of the Grignard reagent to ester bond. The proportion of the starting material that became a by-product was 42% and the yield of the objective product was as low as 58%. After hydrolysis of the obtained crude ethyl 2-cyclohexyl-2-hydroxy-2-phenylacetate, it was subjected to recrystallization and the like to increase the purity but the yield from ethyl benzoylformate of 2-cyclohexyl-2-hydroxy-2-phenylacetic acid did not exceed 43%.

reactant | ethyl benzoylformate | C(C1=CC=CC=C1)(=O)C(=O)OCC | C10H10O3
reactant | cyclohexylmagnesium bromide | C1(CCCCC1)[Mg]Br
product | ethyl 2-cyclohexyl-2-hydroxy-2-phenylacetate | C1(CCCCC1)C(C(=O)OCC)(C1=CC=CC=C1)O | C16H22O3
